US04654351
Preparation of 1-[bis(phenylcarbamoyloxymethyl)-methyl]-2-(phenylcarbamoyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline
0.01 mole of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline is reacted with 0.03 mole of phenylisocyanate in toluene, as described in Example 22. The aimed compound is obtained, which has the same physical and analytical characteristics as the product of Example 26 (Table 2).

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.01 mole | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
reactant | phenylisocyanate | 0.03 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[bis(phenylcarbamoyloxymethyl)-methyl]-2-(phenylcarbamoyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)NC(=O)OCC(C1N(CCC2=CC(=C(C=C12)OC)OC)C(NC1=CC=CC=C1)=O)COC(NC1=CC=CC=C1)=O | C35H36N4O7
